US05866579
6-Benzyl-5,6,7,8-tetrahydro-3-nitro-1,6-naphthyridine.
A mixture of 1-methyl-3,5-dinitro-2-pyridone (1.2 g, 6.0 mmol), 1-benzyl-4-piperidone (1.12 g, 5.9 mmol) and ammonia solution in methanol (2.0M, 60 mL) was refluxed for 3 h. The solvent was removed in vacuo and the residue was dissolved in ethyl acetate. The soluble portion was flash chromatographed over silica gel (eluent: 90:1 v/v ethyl acetate-hexane) to give a yellow solid (0.79 g, 49.7% yield).

reactant | 1-methyl-3,5-dinitro-2-pyridone | 6.0 mmol, 1.2 g | CN1C(C(=CC(=C1)[N+](=O)[O-])[N+](=O)[O-])=O | C6H5N3O5
reactant | 1-benzyl-4-piperidone | 5.9 mmol, 1.12 g | C(C1=CC=CC=C1)N1CCC(CC1)=O | C12H15NO
reactant | ammonia | N | H3N
solvent | methanol | 2.0M, 60 mL | CO | CH4O
product | 6-Benzyl-5,6,7,8-tetrahydro-3-nitro-1,6-naphthyridine | 0.79 g, 49.7% yield | C(C1=CC=CC=C1)N1CC=2C=C(C=NC2CC1)[N+](=O)[O-] | C15H15N3O2
